US07935688B2
(3) Synthesis of (4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-fluoro-2′-methyl-biphenyl-4-yl)-acetic Acid
A mixed solution of a 6 N sodium hydroxide aqueous solution (0.011 mL) with water (0.032 mL) was added to a solution of (4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-fluoro-2′-methyl-biphenyl-4-yl)acetic acid methyl ester (Example 60-(2); 8.5 mg, 0.016 mmol) in methanol (0.22 mL) at room temperature, and the mixture was stirred at room temperature for six hours. The mixture was acidified with dilute hydrochloric acid aqueous solution, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to give the title compound (8 mg, 100%).

reactant | sodium hydroxide | 6 N, 0.011 mL | [OH-].[Na+]
reactant | water | 0.032 mL | O | H2O
reactant | (4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-fluoro-2′-methyl-biphenyl-4-yl)acetic acid methyl ester | 0.016 mmol, 8.5 mg | COC(CC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C)CC)C)F)=O | C35H45FO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 0.22 mL | CO | CH4O
product | (4′-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-fluoro-2′-methyl-biphenyl-4-yl)-acetic Acid | 8 mg, 100% | C(C)C(CC)(C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C)C1=CC(=C(C=C1)C1=CC(=C(C=C1)CC(=O)O)F)C | C34H43FO3
